US04369309
3,4-Dihydro-2-benzylaminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole:
To a solution of 1.12 g of 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole in chloroform (20 ml) was added with 0.41 g of benzylamine and a catalytic amount of sodium hydride, and refluxed for 11 hours. The reaction mixture was cooled and then condensed under reduced pressure. The residue was added with water, extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate. Chloroform was evaporated under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform to obtain 0.29 g (Yield: 31%) of the intended product, m.p. 155°-156° C.; IR νmaxKBr cm-1 : 3260, 3100-2800, 1600, 1430; Anal. Calcd. for C18H19N3S: C, 69.87; H, 6.19; N, 13.58; S, 10.36; Found: C, 70.00; H, 6.21; N, 13.69; S, 10.10.

reactant | 3,4-dihydro-2-p-toluenesulfonyloxymethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 1.12 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CCN2C(=NC3=C2C=CC=C3)S1)C | C18H18N2O3S2
reactant | benzylamine | 0.41 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium hydride | [H-].[Na+]
reactant | water | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dihydro-2-benzylaminomethyl-2H-(1,3)-thiazino[3,2-a]benzimidazole | 0.29 g, Yield: 31% | C(C1=CC=CC=C1)NCC1CCN2C(=NC3=C2C=CC=C3)S1 | C18H19N3S
